US07696213B2
6-Bromo-8-isopropyl-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one
To a stirred and cooled (−20° C.) solution of 6-bromo-8-isopropyl-4-methyl-2-(methylthio)-pyrido[2,3-d]pyrimidin-7(8H)-one (380 mg, 1.16 mmol) in CH2Cl2 (25 mL) was added MCPBA (340 mg, 77%, 1.52 mmol). After stirring for 30 min (−20° C. to 0° C.), the mixture was quenched with saturated aqueous NaHCO3, extracted with EtOAc, dried and evaporated. The crude product was washed with EtOAc/Hexane to give the title compound (190 mg, 48%).

reactant | 6-bromo-8-isopropyl-4-methyl-2-(methylthio)-pyrido[2,3-d]pyrimidin-7(8H)-one | 1.16 mmol, 380 mg | BrC1=CC2=C(N=C(N=C2C)SC)N(C1=O)C(C)C | C12H14BrN3OS
reactant | MCPBA | 1.52 mmol, 340 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-8-isopropyl-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 190 mg, 48% | BrC1=CC2=C(N=C(N=C2C)S(=O)C)N(C1=O)C(C)C | C12H14BrN3O2S
